US07842696B2
DIPEA (0.111 mL, 0.64 mmol) was added to a stirred solution of [(1H-Indole-5-carbonyl)-amino]-acetic acid (40 mg, 0.18 mmol) in DMF (1.0 mL). HOBT (29 mg, 0.22 mmol) and EDCI.HCl (42 mg, 0.22 mmol) were added, followed by the addition of piperazine-1-yl-(2-trifluoromethyl-phenyl)-methanone hydrochloride (59 mg, 0.20 mmol) at room temperature. The resulting mixture was stirred at room temperature overnight. The mixture was then diluted with water and the resulting precipitate was filtered to afford 1H-Indole-5-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazine-1-yl]-ethyl}-amide in 45% yield. LC-MS purity: 91%, 1H NMR (CDCl3): δ 8.48 (s, 1H), 8.18 (s, 1H), 7.78-7.54 (m, 4H), 7.42-7.30 (m, 2H), 7.28 (s, 1H), 6.62 (s, 1H), 4.40-4.20 (m, 2H), 4.18-3.82 (m, 2H), 3.78-3.52 (m, 4H), 3.24 (s, 2H).

reactant | DIPEA | 0.64 mmol, 0.111 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | [(1H-Indole-5-carbonyl)-amino]-acetic acid | 0.18 mmol, 40 mg | N1C=CC2=CC(=CC=C12)C(=O)NCC(=O)O | C11H10N2O3
reactant | HOBT | 0.22 mmol, 29 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 0.22 mmol, 42 mg | CCN=C=NCCCN(C)C.Cl
reactant | piperazine-1-yl-(2-trifluoromethyl-phenyl)-methanone hydrochloride | 0.20 mmol, 59 mg | Cl.N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1H-Indole-5-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazine-1-yl]-ethyl}-amide | 45% yield | O=C(CNC(=O)C=1C=C2C=CNC2=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C23H21F3N4O3
